US07723375B2
To a solution of wortmannin (30.0 mg, 70.0 μmol) in CH2Cl2 (200 μL) was added pyrrolidine (7.0 μL, 84 μmol) in CH2Cl2. The reaction mixture was stirred at room temperature for 1 h. The solvent and excess thiol were removed in vacuo and the product was purified by chromatography on SiO2 (hexanes/ethyl acetate 9:1, then 1:1) to give PX-867 (30.0 mg, 60.6 μmol, 86%) as an orange oil. The product was analyzed by several experimental methods and shown to be of the correct structure and of high purify as: [α]D −390 (c 0.0073, CH2Cl2, 23° C.); IR (KBr) 3337, 1740, 1684, 1617, 1570, 1261, 1221, 1099, 1018 cm−1; 1H NMR δ 8.29 (s, 1H), 6.72 (s, 1H), 6.07 (dd, 1H, J=6.9,4.8 Hz), 4.47 (dd, 1H, J=7.0, 1.9 Hz), 3.80-3.70 (m, 2H), 3.25 (s, 3H), 3.25-3.14 (m, 2H), 3.02-2.90 (m, 2H), 2.69 (br s, 1H), 2.58 (dd, 1H), J=19.1, 8.4 Hz), 2.39 (dd, 1H, J=14.6. 7.8 Hz), 2.32-2.08 (m, 2H), 2.06 (s, 3H), 1.99-1.95 (m, 5H), 1.84 (dd, 1H, J=14.5, 4.2 Hz), 1.56 (s, 3H), 0.86 (s, 3H); 13C NMR δ 217.5, 178.9, 169.9, 164.9, 153.9, 151.3, 137.6, 137.1, 129.2, 89.4, 82.1, 73.3, 67.7, 59.3, 55.2, 49.2 (2 C), 42.6, 42.4, 37.8, 36.3, 25.6 (2 C), 24.5, 22.4, 21.0, 16.3; MS (EI) m/z (rel. intensity) 499 (M+, 1), 439 (2), 365 (7), 167 (35), 149 (100); HRMS (EI) calculated for C27H33NO8 499.2206; found 499.2191.

reactant | wortmannin | 70.0 μmol, 30.0 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H24O8
reactant | pyrrolidine | 84 μmol, 7.0 μL | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 200 μL | C(Cl)Cl | CH2Cl2
product | PX-867 | 60.6 μmol, 30.0 mg, 86% | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@]4([C@H](OC(=O)/C(=C\N5CCCC5)/C4=C(C3=O)O)COC)C)C | C27H33NO8
